US09167819B2
Step 1: Synthesis of 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-4-(trifluoromethyl)benzoic acid
3.71 g (33.1 mmol) of potassium tert-butoxide were added to a solution of 4.00 g (15.0 mmol) of 2-methoxy-3-(methylsulfanyl)-4-(trifluoromethyl)benzoic acid in 250 ml of methanol. The mixture was stirred for 10 minutes, and 1.07 g (25.5 mmol) of cyanamide and 4.81 g (27.0 mmol) of N-bromosuccinimide were then added in succession. The contents were then stirred at RT for 2 h. The mixture was then freed from the solvent on a rotary evaporator and the residue was taken up in a mixture of in each case 120 ml of acetonitrile and water. 7.21 g (45.1 mmol) of sodium permanganate monohydrate were added, and the mixture was stirred at RT for one week. During this week, both after one day and after a further day, in each case 3.6 g (22.5 mmol) of sodium permanganate monohydrate were added. For work-up, a 10% by weight strength solution of sodium bisulfate was added. On a rotary evaporator, at a temperature of at most 30° C., the solvent was substantially removed. The residue was cooled in an ice bath and then acidified with 1M hydrochloric acid. The mixture was extracted three times with ice-cold dichloromethane. The combined organic phases were freed from the solvent on a rotary evaporator and the residue was purified chromatographically, which gave 1.30 g of product of a purity of 80% by weight.

reactant | potassium tert-butoxide | 33.1 mmol, 3.71 g | CC(C)([O-])C.[K+]
reactant | 2-methoxy-3-(methylsulfanyl)-4-(trifluoromethyl)benzoic acid | 15.0 mmol, 4.00 g | COC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C10H9F3O3S
reactant | cyanamide | 25.5 mmol, 1.07 g | N#CN | CH2N2
reactant | N-bromosuccinimide | 27.0 mmol, 4.81 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium permanganate monohydrate | 45.1 mmol, 7.21 g | O.[Mn](=O)(=O)(=O)[O-].[Na+]
reactant | sodium permanganate monohydrate | 22.5 mmol, 3.6 g | O.[Mn](=O)(=O)(=O)[O-].[Na+]
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 3-(N-cyano-S-methylsulfonimidoyl)-2-methoxy-4-(trifluoromethyl)benzoic acid | 1.30 g | C(#N)N=S(=O)(C)C=1C(=C(C(=O)O)C=CC1C(F)(F)F)OC | C11H9F3N2O4S
